* sample_1000_0.97500
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 27
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear

VDD vdd 0 1.8
VIN src 0 PWL(0 .9 20n .9 21n 0.975)
RS src inp 1000
VEN en 0 PWL(0 1.8 2.5u 1.8 2.501u 0)
VENB enb 0 PWL(0 0 2.5u 0 2.501u 1.8)
XSW inp hold en enb vdd 0 adc_tgate
XH hold 0 adc_mim_bank COUNT=4096
RDC hold 0 1e15
.ic v(hold)=.9

.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 1n 3u uic
wrdata /repo/v2/analog/adc/results/sample_1000_0.97500.tsv v(src) v(inp) v(hold) i(vdd)
quit
.endc
.end
